US04497808
A mixture of 22.5 g of 1-methylsulphonyl-1-(1-oxido-3-pyridylmethylene)-acetone, 16.5 g of 3-aminocrotonic acid methyl ester and 45 g of molecular sieve (Union Carbide, 3 Å) in 250 ml of absolute ethanol is boiled under reflux for 18 hours. The resulting suspension is filtered, the filter residue is washed with chloroform and the filtrate is concentrated by evaporation under reduced pressure. The oily residue is dried by the addition of toluene and renewed concentration by evaporation under reduced pressure. The residue is chromatographed over approximately 50 to 100 times the amount of silica gel, a mixture of chloroform and methanol (9:1) being used as the liquid phase. Once the starting materials and intermediate have been removed by washing, the desired product is eluted; the corresponding fractions are combined and concentrated by evaporation and the residue is recrystallised from a mixture of isopropanol and diethyl ether. In this manner 2,6-dimethyl-5-methylsulphonyl-4-(1-oxido-3-pyridyl)-1,4-dihydropyridine-3-carboxylic acid methyl ester having a melting point of 236°-238° is obtained.

reactant | 1-methylsulphonyl-1-(1-oxido-3-pyridylmethylene)-acetone | 22.5 g | CS(=O)(=O)C(C(=O)C)=CC=1C=[N+](C=CC1)[O-] | C10H11NO4S
reactant | 3-aminocrotonic acid methyl ester | 16.5 g | COC(\C=C(\C)/N)=O | C5H9NO2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2,6-dimethyl-5-methylsulphonyl-4-(1-oxido-3-pyridyl)-1,4-dihydropyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(NC(=C(C1C=1C=[N+](C=CC1)[O-])S(=O)(=O)C)C)C | C15H18N2O5S
